US05478840
Ethyl (7-fluoro-2-methyl-5H-dibenzo[a,d]cyclohepten-5-yliden)acetate (Compound 4-a)
Ethyl diethylphosphonoacetate (1.3 ml) was dissolved in 30 ml of THF, and 0.26 g of sodium hydride (60% oily) was added to the solution under ice cooling, followed by stirring under the same conditions for 30 minutes. To the mixture was added dropwise 20 ml of a solution of 0.3 g of 7-fluoro-2-methyl-5-oxo-5H-dibenzo[ a,d]cycloheptene in THF, and the mixture was heated under reflux for 2 hours. After cooling, water and ethyl acetate were added to the mixture, and the organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (10/1)] to give 0.38 g (98%) of the product as a yellow oily substance.

reactant | Ethyl diethylphosphonoacetate | 1.3 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 7-fluoro-2-methyl-5-oxo-5H-dibenzo[ a,d]cycloheptene | 0.3 g | FC1=CC2=C(C=CC3=C(C2=O)C=CC(=C3)C)C=C1 | C16H11FO
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (7-fluoro-2-methyl-5H-dibenzo[a,d]cyclohepten-5-yliden)acetate | 0.38 g, 98% | FC1=CC2=C(C=CC3=C(C2=CC(=O)OCC)C=CC(=C3)C)C=C1 | C20H17FO2
